US07700641B2
Synthesis of ethyl 4-(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)butanoate
Following the procedure described in EXAMPLE 10.47, and making non-critical variations using spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, and ethyl 4-bromobutyrate to replace 2-(bromomethyl)-5-(trifluoromethyl)furan, the title compound was obtained (80%) as a gummy material: 1H NMR (300 MHz, CDCl3) δ 7.29 (t, 1H), 7.14 (d, 1H), 7.04 (d, 1H), 6.99 (d, 1H), 6.48 (s, 1H), 6.18 (s, 1H), 5.84 (d, 2H), 4.76 (ABq, 2H), 4.11 (q, 2H), 3.88-3.71 (m, 2H), 2.40 (t, 2H), 2.03 (t, 2H), 1.21(t, 3H); 13C NMR (75 MHz, CDCl3) δ 177.4, 172.8, 156.0, 148.9, 142.4, 142.2, 132.4, 129.0, 124.0, 123.3, 119.4, 108.7, 103.0, 101.5, 93.6, 80.5, 60.7, 58.2, 39.6, 31.2, 22.6, 14.3; MS (ES+) m/z 418.08 (M+23), 396.1 (M+1).

reactant | spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | N1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C16H11NO4
reactant | 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(NC2=CC=C1)=O)COC=1C3=CC3=C(OCO3)C1 | C16H10BrNO4
reactant | ethyl 4-bromobutyrate | BrCCCC(=O)OCC | C6H11BrO2
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | ethyl 4-(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)butanoate | O=C1N(C2=CC=CC=C2C12COC=1C2=CC2=C(OCO2)C1)CCCC(=O)OCC | C22H21NO6
